US08420856B2
Hydrogen peroxide (8.096 ml) was added dropwise to the well stirred solution of 3-oxo-N-[4-(trifluoromethyl)phenyl]butanamide (10 g) [obtained from above step-a], potassium bromide (4.85 g) and conc. HCl (7.446 ml) in toluene (100 ml) at room temperature. Reaction was monitored by TLC. D.M water was added to the reaction mixture and organic layer was separated. Aqueous layer was extracted with ethyl acetate (50 ml×2). Combined organic layer was washed with brine, dried over sodium sulfate and concentrated to give crude compound. The crude was purified by column chromatography to give pure 2-bromo-3-oxo-N-[4-(trifluoromethyl)phenyl]butanamide (6.4 g).

reactant | Hydrogen peroxide | 8.096 ml | OO | H2O2
reactant | 3-oxo-N-[4-(trifluoromethyl)phenyl]butanamide | 10 g | O=C(CC(=O)NC1=CC=C(C=C1)C(F)(F)F)C | C11H10F3NO2
reactant | potassium bromide | 4.85 g | [Br-].[K+]
reactant | HCl | 7.446 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-bromo-3-oxo-N-[4-(trifluoromethyl)phenyl]butanamide | 6.4 g, Yield: 67.0% | BrC(C(=O)NC1=CC=C(C=C1)C(F)(F)F)C(C)=O | C11H9BrF3NO2
